US07939526B2
Nitrogen was bubbled through a solution of 1-[2-(3-chloropropoxy)ethyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (2.50 g, 7.21 mmol) in DMF (25 mL) for 5 minutes. Sodium 2-propanethiolate (0.85 g 8.65 mmol) was added and the reaction mixture was stirred under a nitrogen atmosphere at ambient temperature. After 16 hours analysis by HPLC indicated that 50% of the starting material had been consumed. Additional sodium 2-propanethiolate (0.6 g) was added followed by a second addition (0.25 g) 2.5 hours later. After a total of 21 hours the reaction mixture was poured into water (250 mL) with rapid stirring. The resulting tan precipitate was isolated by filtration to provide 2.34 g of 1-(2-{3-[(1-methylethyl)thio]propoxy}ethyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | 1-[2-(3-chloropropoxy)ethyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 7.21 mmol, 2.50 g | ClCCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C18H23ClN4O
reactant | Sodium 2-propanethiolate | 8.65 mmol, 0.85 g | CC(C)[S-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-(2-{3-[(1-methylethyl)thio]propoxy}ethyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.34 g | CC(C)SCCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C21H30N4OS
